US07230007B2
a) N-[1-(Isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine
0.397 g (17.28 mmol) of sodium (washed beforehand in toluene) was gradually added to 40 cm3 of methanol at a temperature in the region of 20° C. under an argon atmosphere. After dissolving with stirring, 1.685 g (17.28 mmol) of guanidine hydrochloride were added and the mixture was stirred at a temperature in the region of 20° C. for 1 h 30. The reaction mixture was filtered and then concentrated to dryness under reduced pressure (2.7 kPa). The residue was subsequently taken up in a mixture of 70 cm3 of tetrahydrofuran and 70 cm3 of dichloromethane under an argon atmosphere at a temperature in the region of 20° C. and then 3.46 mmol of 3-chlorocarbonyl-1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride were added thereto with stirring. After stirring at a temperature in the region of 20° C. for 15 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa). The solid residue was taken up in 100 cm3 of water and stirred for 2 h, and then the insoluble material was filtered off. The solid was dried and then triturated in 20 cm3 of cyclohexane. The solid was filtered off and then dried at a temperature in the region of 20° C. under reduced pressure (2.7 kPa) and 0.784 g of N-[1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine was thus obtained in the form of a light yellow solid melting at 250° C. 1H N.M.R. spectrum (300 MHz, (CD3)2SO, δ in ppm): 7.31 (dd, J=8 and 5 Hz, 1H), 7.58 (broad d, J=8.5 Hz, 1H), 7.66 (ddd, J=8.5, 7.5 and 1 Hz, 1H), 7.89 (ddd, J=8.5, 7.5 and 1 Hz, 1H), 8.09 (d, J=5.5 Hz, 1H), from 8.10 to 8.25 (mt, 2H), 8.29 (s, 1H), 8.56 (d, J=5.5 Hz, 1H), 8.90 (dd, J=8 and 1.5 Hz, 1H).

reactant | sodium | 17.28 mmol, 0.397 g | [Na] | Na
reactant | guanidine hydrochloride | 17.28 mmol, 1.685 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 3.46 mmol | Cl.ClC(=O)C1=CN(C2=NC=CC=C21)C2=NC=CC1=CC=CC=C21
solvent | methanol | 40 cm3 | CO | CH4O
product | N-[1-(Isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine | C1(=NC=CC2=CC=CC=C12)N1C=C(C=2C1=NC=CC2)C(=O)NC(=N)N | C18H14N6O
